US07317025B2
trans-N-(1-Acetyl-2,3-dihydro-1H-indol-6-yl)-N-(1-benzyl-piperidin-3-yl)-3-phenyl-acrylamide
1-[6-(1-Benzyl-piperidin-3-ylamino)-2,3-dihydro-indol-1-yl]-ethanone. The desired intermediate (116 mg, 30%) was prepared as in Example 39, Step A, employing 1-benzyl-3-piperidone (510 mg, 4.4 mmol), 1-acetyl-6-aminoindoline (200 mg, 1 mmol), Na(OAc)3BH (910 mg, 4.3 mmol), and AcOH (340 μL, 5.4 mmol) in 1,2-dichloroethane (20 mL). Step B. The above intermediate (0.10 g, 0.29 mmol) was then reacted with cinnamoyl chloride (62 mg, 0.37 mmol) as in Example 2, Step C to provide 145 mg (99%) of the desired product. 1H NMR (500 MHz, CDCl3): 8.04 (s, 1H), 7.62 (d, J=15.5 Hz, 1H), 7.30-7.18 (m, 10H), 7.15 (d, J=7.8 Hz, 1H), 6.74 (dd, J=7.3, 1.4 Hz, 1H), 6.16 (d, J=15.5 Hz, 1H), 4.79-4.68 (m, 1H), 4.18-4.07 (m, 2H), 3.30-3.15 (m, 2H), 2.98-2.85 (m, 2H), 2.26-2.23 (m, 2H), 2.21 (s, 3H), 2.15-2.01 (m, 2H), 1.93-1.75 (m, 2H), 1.60-1.35 (m, 3H). MS: exact mass calculated for C31H33N3O2, 479.26; m/z found, 480.2 [M+H]+.

reactant | 1-[6-(1-Benzyl-piperidin-3-ylamino)-2,3-dihydro-indol-1-yl]-ethanone | C(C1=CC=CC=C1)N1CC(CCC1)NC1=CC=C2CCN(C2=C1)C(C)=O | C22H27N3O
reactant | 1-benzyl-3-piperidone | 4.4 mmol, 510 mg | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
reactant | 1-acetyl-6-aminoindoline | 1 mmol, 200 mg | C(C)(=O)N1CCC2=CC=C(C=C12)N | C10H12N2O
reactant | Na(OAc)3BH | 4.3 mmol, 910 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 5.4 mmol, 340 μL | CC(=O)O | C2H4O2
reactant | cinnamoyl chloride | 0.37 mmol, 62 mg | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | trans-N-(1-Acetyl-2,3-dihydro-1H-indol-6-yl)-N-(1-benzyl-piperidin-3-yl)-3-phenyl-acrylamide | 145 mg, 99% | C(C)(=O)N1CCC2=CC=C(C=C12)N(C(\C=C\C1=CC=CC=C1)=O)C1CN(CCC1)CC1=CC=CC=C1 | C31H33N3O2
